US04059721
136.2 g of pentaerythritol, 288.3 g of acrylic acid, 30 g of an acid ion exchanger (Lewatit 3333 of BAYER AG), 0.5 g of p-methoxyphenol and 110 ml of petroleum ether (fraction boiling at 60° to 70° C) were heated to the reflux temperature in a 1 liter three-necked flask equipped with a gas inlet tube, stirrer and water separator. During the esterification, which had progressed over the course of 48 hours to the point that the acid number of the mixture was 35, a total of 5 g of crotyl alcohol was added dropwise. After evaporating off the petroleum ether and filtering off the acid ion exchange resin, a pale yellow, clear pentaerythritol tetraacrylate was obtained. The content of residual free acrylic acid was lowered to a value corresponding to acid number 5 by washing with distilled water.

reactant | pentaerythritol | 136.2 g | OCC(CO)(CO)CO | C5H12O4
reactant | acrylic acid | 288.3 g | C(C=C)(=O)O | C3H4O2
reactant | p-methoxyphenol | 0.5 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | crotyl alcohol | 5 g | C(C=CC)O | C4H8O
solvent | water | O | H2O
product | pentaerythritol tetraacrylate | C(C=C)(=O)OCC(COC(C=C)=O)(COC(C=C)=O)COC(C=C)=O | C17H20O8
